US04739106
9.4 g (50 millimoles) of ethyl 4-carbamoyloxy-3-aminocrotonate and 13.2 g (50 millimoles) of ethyl 2-(o-nitrobenzylidene)acetoacetate were dissolved in 200 ml of ethanol and reacted at a temperature of from 60° to 70° C. for 16 hours under stirring. The reaction mixture was concentrated under reduced pressure. The residue was crystallized from ethylacetate-hexane, whereby 12.6 g (yield: 58%) of 2-carbamoyloxymethyl-6-methyl-4-(o-nitrophenyl)-3,5-diethoxycarbonyl-1,4-dihydropyridine in crystal form was obtained.

reactant | ethyl 4-carbamoyloxy-3-aminocrotonate | 50 millimoles, 9.4 g | C(N)(=O)OC/C(=C/C(=O)OCC)/N | C7H12N2O4
reactant | ethyl 2-(o-nitrobenzylidene)acetoacetate | 50 millimoles, 13.2 g | [N+](=O)([O-])C1=C(C=C(C(=O)OCC)C(=O)C)C=CC=C1 | C13H13NO5
reactant | ethylacetate hexane | C(C)OC(C)=O.CCCCCC
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-carbamoyloxymethyl-6-methyl-4-(o-nitrophenyl)-3,5-diethoxycarbonyl-1,4-dihydropyridine | 12.6 g, yield: 58% | C(N)(=O)OCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C20H23N3O8
